US09416101B2
4-(chlorosulfonyl)benzoic acid (573 mg, 2.60 mmol) was treated with 4-methoxyaniline (800 mg, 6.5 mmol) using method A to give 4-(N-(4-methoxyphenyl)sulfamoyl)benzoic acid as an off white solid. Yield: 528 mg (66%). 1H-NMR: 10.05 (s, 1H), 6.96 (d, J=8.5 Hz, 2H), 6.80 (d, J=8.5 Hz, 2H), 6.96 (d, J=9.0 Hz, 2H), 6.80 (d, J=9.0 Hz, 2H), 3.67 (s, 3H).

reactant | 4-(chlorosulfonyl)benzoic acid | 2.60 mmol, 573 mg | ClS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C7H5ClO4S
reactant | 4-methoxyaniline | 6.5 mmol, 800 mg | COC1=CC=C(N)C=C1 | C7H9NO
product | 4-(N-(4-methoxyphenyl)sulfamoyl)benzoic acid | COC1=CC=C(C=C1)NS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C14H13NO5S
